US07011838B2
Using 0.45 g of (4-(trifluoromethyl)benzyl)malononitrile, 5 ml of N,N-dimethylformamide, 0.12 g of sodium hydride (60% in oil), and 0.25 g of 1,1,3-trichloropropene, and according to the process described in the Production Example 1, there was obtained 0.28 g of 2-(3,3-dichloro-2-propenyl)-2-(4-(trifluoromethyl)benzyl)malononitrile (the present compound (55)).

reactant | (4-(trifluoromethyl)benzyl)malononitrile | 0.45 g | FC(C1=CC=C(CC(C#N)C#N)C=C1)(F)F | C11H7F3N2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 1,1,3-trichloropropene | 0.25 g | ClC(=CCCl)Cl | C3H3Cl3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(3,3-dichloro-2-propenyl)-2-(4-(trifluoromethyl)benzyl)malononitrile | 0.28 g, Yield: 37% | ClC(=CCC(C#N)(C#N)CC1=CC=C(C=C1)C(F)(F)F)Cl | C14H9Cl2F3N2
